US05994355
Synthesis of 2-[3,5-dichloro-4-(4-chlorobenzyl)phenyl]-4,5-dihydro-1,2,4-triazin-3(2H)-one
In 5 ml of acetonitrile was dissolved 0.4 g of 1-benzylidene-2-[4-(4-chlorobenzyl)-3,5-dichlorophenyl]-4-(2,2-diethoxyethyl)-semicarbazide. To the solution was added one drop of 35% hydrochloric acid. The mixture was stirred for one hour at room temperature. The reaction mixture was cooled, then resulting crystalline precipitate-of the titled compound was collected by filtration. The yield was 95%. m.p. 199-200° C.

reactant | 1-benzylidene-2-[4-(4-chlorobenzyl)-3,5-dichlorophenyl]-4-(2,2-diethoxyethyl)-semicarbazide | 0.4 g | C(C1=CC=CC=C1)=NN(C(=O)NCC(OCC)OCC)C1=CC(=C(C(=C1)Cl)CC1=CC=C(C=C1)Cl)Cl | C27H28Cl3N3O3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | hydrochloric acid | one drop | Cl | ClH
product | 2-[3,5-dichloro-4-(4-chlorobenzyl)phenyl]-4,5-dihydro-1,2,4-triazin-3(2H)-one | yield was 95% | ClC=1C=C(C=C(C1CC1=CC=C(C=C1)Cl)Cl)N1N=CCNC1=O | C16H12Cl3N3O
